US09403810B2
Step 2: Ethyl 5-((1R,2S)-1,2-dihydroxypropyl)-4-methylisoxazole-3-carboxylate
(E)-Ethyl 4-methyl-5-(prop-1-en-1-yl)isoxazole-3-carboxylate (500 mg, 2.56 mmol) in tert-BuOH-water (1 mL) was added portionwise to a mixture of AD-mix-beta (3.59 g, 7.63 mmol), methane sulfonamide (731 mg, 7.68 mmol), modified AD-mix-β (DHQD)2PHAL (80 mg, 0.102 mmol) and osmium tetroxide (0.836 mL of a 2.5 wt % solution in tert-BuOH, 0.067 mmol) in tert-BuOH-water (1:1, 19 mL) and the resulting reaction mixture was stirred at room temperature for 1.5 hr. Sodium sulfite (3.9 g) was added in one portion and the reaction was left to stir for 30 mins. The phases were separated and the EtOAc phase was dried over Na2SO4 and concentrated under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 65-75% EtOAc in iso-hexane afforded the title compound (96% ee);

reactant | (E)-Ethyl 4-methyl-5-(prop-1-en-1-yl)isoxazole-3-carboxylate | 2.56 mmol, 500 mg | CC=1C(=NOC1\C=C\C)C(=O)OCC | C10H13NO3
reactant | AD-mix-beta | 7.63 mmol, 3.59 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methane sulfonamide | 7.68 mmol, 731 mg | CS(=O)(=O)N | CH5NO2S
reactant | Sodium sulfite | 3.9 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-BuOH water | 1 mL | C(C)(C)(C)O.O
reactant | tert-BuOH water | 19 mL | C(C)(C)(C)O.O
solvent | tert-BuOH | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | Ethyl 5-((1R,2S)-1,2-dihydroxypropyl)-4-methylisoxazole-3-carboxylate | O[C@H]([C@H](C)O)C1=C(C(=NO1)C(=O)OCC)C | C10H15NO5
